Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8].[H:9],5.5701366435500015
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7](=[O:8])[H:9].[H:6],3.71687778148
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-4.10875203453
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.67043025413
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57027841932
[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],4.957732475919999
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.83998204476
[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.08650999409
[C:2]([O:3][C:4]#[C:5][H:6])=[C:7]([H:8])[H:9].[O:1]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9],-6.36187382916
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12].[H:4],1.89966412438
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:4][C:5]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.18185171851
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.20386701445
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:9]([C:7](=[C:6]=[O:5])[H:8])([H:10])[H:11],-0.54303818587
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.42326447061
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])[H:8].[H:1][O:2][C@:3]([H:4])([O:5])[C:9]([H:10])=[C:11]([H:12])[H:13],5.03430270198
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.84646770499
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[C:3]([H:4])([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][O:2],2.72322035838
[H:1][O:2][C:3](=[O:4])[C:7](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@:3]12[O:4][C@:5]1([H:6])[C:7]2[C:8]([H:9])([H:10])[H:11],0.8848239142919999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.18250145693
[H:10].[H:1][C:2]#[C:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.31054994965
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-1.0533525541
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.01702587746
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.4370917718900005
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],4.56840341491
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:6][H:7],3.9083512484300007
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.07843532547
[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-0.80402684
